US05032598
1-(Indole-5-carbonyl)-4-[2-(4-nitrophenyl)ethyl]piperazine
In the manner described in Example 24, indole-5-carboxylic acid (100 mg, 0.62 mmol) and 1-[2-(4-nitrophenyl)ethyl]piperazine (151 mg, 0.64 mmol) gave, after purification by flash column chromatography on silica gel, eluting with CH2Cl2 /MeOH/NH3 ; 95:5:0.5 and trituration with hexane/EtOAc, the piperazine (38 mg, 16%), mp 204°-206° C.

reactant | indole-5-carboxylic acid | 0.62 mmol, 100 mg | N1C=CC2=CC(=CC=C12)C(=O)O | C9H7NO2
reactant | 1-[2-(4-nitrophenyl)ethyl]piperazine | 0.64 mmol, 151 mg | [N+](=O)([O-])C1=CC=C(C=C1)CCN1CCNCC1 | C12H17N3O2
product | 1-(Indole-5-carbonyl)-4-[2-(4-nitrophenyl)ethyl]piperazine | N1C=CC2=CC(=CC=C12)C(=O)N1CCN(CC1)CCC1=CC=C(C=C1)[N+](=O)[O-] | C21H22N4O3
